US08895582B2
To a solution of (S)-methyl 5-(tert-butoxycarbonylamino)-6-hydroxyhexanoate (12 g, 46 mmol) in DMF (100 mL) was added imidazole (7.8 g, 115 mmol, 2.5 equiv.). TBS-Cl (8.25 g, 55 mmol, 1.2 equiv.) was then added in 3 portions. The reaction was complete in 30 min. Diethyl ether (200 mL) and brine (300 mL) were added to the reaction solution. The organic layer was further washed with brine (300 mL), dried, and concentrated to give (S)-methyl 5-(tert-butoxycarbonylamino)-6-(tert-butyldimethylsilyloxy)hexanoate (15.9 g, 92%) as a colorless oil. LRMS (M-Boc+H+) m/z 276.1.

reactant | (S)-methyl 5-(tert-butoxycarbonylamino)-6-hydroxyhexanoate | 46 mmol, 12 g | C(C)(C)(C)OC(=O)N[C@@H](CCCC(=O)OC)CO | C12H23NO5
reactant | imidazole | 115 mmol, 7.8 g, 2.5 equiv. | N1C=NC=C1 | C3H4N2
reactant | TBS-Cl | 55 mmol, 8.25 g, 1.2 equiv. | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | Diethyl ether | 200 mL | C(C)OCC | C4H10O
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
solvent | brine | 300 mL | [Cl-].[Na+].O
product | (S)-methyl 5-(tert-butoxycarbonylamino)-6-(tert-butyldimethylsilyloxy)hexanoate | 15.9 g, 92% | C(C)(C)(C)OC(=O)N[C@@H](CCCC(=O)OC)CO[Si](C)(C)C(C)(C)C | C18H37NO5Si
